US05338855
3.2 g of diethyl azodicarboxylate were added dropwise, whilst ice-cooling and under an atmosphere of nitrogen, to a solution of 3.5 g of 2-(2,4,5-trimethyl-3,6-dimethoxypenyl)ethanol, 7.3 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 32) and 4.9 g of triphenylphosphine in 100 ml of tetrahydrofuran, and the resulting mixture was stirred at room temperature for 5 hours. At the end of this time, the reaction mixture was poured into water, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was then removed from the extract by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 5-{4-[2-(2,4,5-trimethyl-3,6-dimethoxyphenyl)ethoxy]benzyl}-3-triphenylmethylthia zolidine-2,4-dione as an oily intermediate. 50 ml of trifluoroacetic acid were added, whilst ice-cooling, to 7.9 g of the intermediate, and the resulting mixture was stirred for 1 hour. At the end of this time, the reaction mixture was diluted with water, after which it was extracted with ethyl acetate. The extract was washed twice, each time with a saturated aqueous solution of sodium hydrogencarbonate; it was then dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the residue thus obtained was purified by column chromatography through silica gel, using a 3:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 3.6 g of the title compound softening at 44°-45° C.

reactant | diethyl azodicarboxylate | 3.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(2,4,5-trimethyl-3,6-dimethoxypenyl)ethanol | 3.5 g | CC1=C(C(=C(C(=C1OC)C)C)OC)CCO | C13H20O3
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 7.3 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 4.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-{4-[2-(2,4,5-trimethyl-3,6-dimethoxyphenyl)ethoxy]benzyl}-3-triphenylmethylthia zolidine-2,4-dione | CC1=C(C(=C(C(=C1OC)C)C)OC)CCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C42H41NO5S
